.SUBCKT gf180mcu_fd_sc_mcu9t5v0__clkbuf_12 I Z VDD VDD VSS VSS
*.PININFO I:I Z:O VDD:P VDD:P VSS:P VSS:G
*.EQN Z=I
M_i_2_0 Z_neg I VSS VSS nmos_6p0 W=0.730000U L=0.600000U
M_i_2_1 VSS I Z_neg VSS nmos_6p0 W=0.730000U L=0.600000U
M_i_2_2 Z_neg I VSS VSS nmos_6p0 W=0.730000U L=0.600000U
M_i_2_3 VSS I Z_neg VSS nmos_6p0 W=0.730000U L=0.600000U
M_i_2_4 Z_neg I VSS VSS nmos_6p0 W=0.730000U L=0.600000U
M_i_2_5 VSS I Z_neg VSS nmos_6p0 W=0.730000U L=0.600000U
M_i_0_0 Z Z_neg VSS VSS nmos_6p0 W=0.800000U L=0.600000U
M_i_0_1 VSS Z_neg Z VSS nmos_6p0 W=0.800000U L=0.600000U
M_i_0_2 Z Z_neg VSS VSS nmos_6p0 W=0.800000U L=0.600000U
M_i_0_3 VSS Z_neg Z VSS nmos_6p0 W=0.800000U L=0.600000U
M_i_0_4 Z Z_neg VSS VSS nmos_6p0 W=0.800000U L=0.600000U
M_i_0_5 VSS Z_neg Z VSS nmos_6p0 W=0.800000U L=0.600000U
M_i_0_6 Z Z_neg VSS VSS nmos_6p0 W=0.800000U L=0.600000U
M_i_0_7 VSS Z_neg Z VSS nmos_6p0 W=0.800000U L=0.600000U
M_i_0_8 Z Z_neg VSS VSS nmos_6p0 W=0.800000U L=0.600000U
M_i_0_9 VSS Z_neg Z VSS nmos_6p0 W=0.800000U L=0.600000U
M_i_0_10 Z Z_neg VSS VSS nmos_6p0 W=0.800000U L=0.600000U
M_i_0_11 VSS Z_neg Z VSS nmos_6p0 W=0.800000U L=0.600000U
M_i_3_0 Z_neg I VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_1 VDD I Z_neg VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_2 Z_neg I VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_3 VDD I Z_neg VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_4 Z_neg I VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_3_5 VDD I Z_neg VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_0 Z Z_neg VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_1 VDD Z_neg Z VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_2 Z Z_neg VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_3 VDD Z_neg Z VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_4 Z Z_neg VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_5 VDD Z_neg Z VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_6 Z Z_neg VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_7 VDD Z_neg Z VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_8 Z Z_neg VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_9 VDD Z_neg Z VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_10 Z Z_neg VDD VDD pmos_6p0 W=1.830000U L=0.500000U
M_i_1_11 VDD Z_neg Z VDD pmos_6p0 W=1.830000U L=0.500000U
.ENDS
